US05143919
A mixture of 2-amino-3-(2-chlorobenzoyl)-5-ethylthiophene (5.30 g), 1-morpholino-2-nitroethene (3.16 g), 6N HCl (5 ml) and acetone (25 ml) was stirred at room temperature for one hour. Water was added to the mixture, which was extracted with ethene acetate. The extract was washed with water and dried over MgSO4, and then the solvent was distilled off to obtain 3-(2-chlorobenzoyl)-2-(2-nitroethenylamino)-5-ethylthiophene as crystals (5.65 g, 84.1%). The crystals were recrystallized from acetone to obtain yellow plates, mp: 125°-126° C.

reactant | 2-amino-3-(2-chlorobenzoyl)-5-ethylthiophene | 5.30 g | NC=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC | C13H12ClNOS
reactant | 1-morpholino-2-nitroethene | 3.16 g | O1CCN(CC1)C=C[N+](=O)[O-] | C6H10N2O3
reactant | HCl | 6N, 5 ml | Cl | ClH
reactant | acetone | 25 ml | CC(=O)C | C3H6O
solvent | Water | O | H2O
product | 3-(2-chlorobenzoyl)-2-(2-nitroethenylamino)-5-ethylthiophene | 5.65 g, 84.1% | ClC1=C(C(=O)C2=C(SC(=C2)CC)NC=C[N+](=O)[O-])C=CC=C1 | C15H13ClN2O3S
